// Generated for: spectre
// Generated on: Jan 15 19:50:00 2023
// Design library name: Transistor
// Design cell name: PMOS
// Design view name: schematic
simulator lang=spectre
global 0
//parameters L=1u M=1 NF=1 VBS=0 VDS=0.5 VGS=0.5 W=1u
include "/home/RodrigoMoraes/Circuit Sizing Tool/files/parametros_n.txt"
include "/home/RodrigoMoraes/1p9m6x1z1u/tsmcN65//../models/spectre/toplevel.scs" section=tt_lib

// Library name: Transistor
// Cell name: PMOS
// View name: schematic
M0 (net2 net1 0 net3) nch l=L w=W*NF m=M nf=NF sd=200n \
        ad=((NF-int(NF/2)*2)*(1.75e-07+((NF-1)*2e-07)/2+0)+(NF+1-int((NF+1)/2)*2)*((NF/2)*2e-07))*W \
        as=((NF-int(NF/2)*2)*(1.75e-07+((NF-1)*2e-07)/2+0)+(NF+1-int((NF+1)/2)*2)*(1.75e-07+1.75e-07+(NF/2-1)*2e-07+0+0))*W \
        pd=(NF-int(NF/2)*2)*((1.75e-07+((NF-1)*2e-07)/2+0)*2+(NF+1)*W)+(NF+1-int((NF+1)/2)*2)*(((NF/2)*2e-07)*2+NF*W) \
        ps=(NF-int(NF/2)*2)*((1.75e-07+((NF-1)*2e-07)/2+0)*2+(NF+1)*W)+(NF+1-int((NF+1)/2)*2)*((1.75e-07+1.75e-07+(NF/2-1)*2e-07+0+0)*2+(NF+2)*W) \
        nrd=(NF-int(NF/2)*2)*(1e-07*1e-07/(1e-07+1e-07*(NF-1))/W)+(NF+1-int((NF+1)/2)*2)*(1e-07/NF/W) \
        nrs=(NF-int(NF/2)*2)*(1e-07*1e-07/(1e-07+1e-07*(NF-1))/W)+(NF+1-int((NF+1)/2)*2)*(1e-07*1e-07*1e-07/(1e-07*1e-07*(NF-2)+1e-07*(1e-07+1e-07))/W) \
        sa=1/(0.0+1.0/(1.75e-07+(0.5*L)+0*(2e-07+L)))-(0.5*L) \
        sb=1/(0.0+1.0/(1.75e-07+(0.5*L)+0*(2e-07+L)))-(0.5*L) sca=0 scb=0 \
        scc=0
V2 (net1 0) vsource dc=VGS type=dc
V1 (net3 0) vsource dc=VBS type=dc
V0 (net2 0) vsource dc=VDS type=dc
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
